US05672712
10% Aqueous sodium hydroxide solution (48 ml) was added to a mixture of ethyl 2-(4-cyanobenzoylimino)-3,4-dimethylthiazoline-5-carboxylate (9.88 g), methylene chloride (250 ml) and methanol (250 ml), followed by stirring at room temperature for 17 hours. The reaction mixture was concentrated under reduced pressure, and the precipitated crystals were collected by filtration to give sodium 2-(4-cyanobenzoylimino)-3,4-dimethylthiazoline-5-carboxylate (10.0 g).

reactant | sodium hydroxide | 48 ml | [OH-].[Na+]
reactant | ethyl 2-(4-cyanobenzoylimino)-3,4-dimethylthiazoline-5-carboxylate | 9.88 g | C(#N)C1=CC=C(C(=O)N=C2SC(=C(N2C)C)C(=O)OCC)C=C1 | C16H15N3O3S
reactant | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 250 ml | CO | CH4O
product | sodium 2-(4-cyanobenzoylimino)-3,4-dimethylthiazoline-5-carboxylate | 10.0 g | C(#N)C1=CC=C(C(=O)N=C2SC(=C(N2C)C)C(=O)[O-])C=C1.[Na+] | InChI=1S/C14H11N3O3S.Na/c1-8-11(13(19)20)21-14(17(8)2)16-12(18)10-5-3-9(7-15)4-6-10;/h3-6H,1-2H3,(H,19,20);/q;+1/p-1
